US04986932
1,2,2,6,6-Pentamethyl-4-Piperidinyl Octadecanoate
In a 250-ml three-necked flask equipped with a KPG stirrer, internal thermometer, and short helical glass column followed by a Liebig condenser, 74.6 g methyl octadecanoate and 64.2 g 1,2,2,6,6-pentamethyl-4-piperidinol were heated 6 hr at 200° C. in the presence of 1 g tetraisopropyl titanate, with a gentle nitrogen stream being passed through the reaction mixture A 28 g amount of a distillate was obtained.

reactant | methyl octadecanoate | 74.6 g | C(CCCCCCCCCCCCCCCCC)(=O)OC | C19H38O2
reactant | 1,2,2,6,6-pentamethyl-4-piperidinol | 64.2 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
catalyst | tetraisopropyl titanate | 1 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 1,2,2,6,6-Pentamethyl-4-Piperidinyl Octadecanoate | C(CCCCCCCCCCCCCCCCC)(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C28H55NO2
